Cost board everything-on stress case in the machine: 64 lamps lit (2.5 ohm = ~5.5 A on +18V, GBJ1510 + 2 x 10000uF) plus the +12V digital buck (0.75 A, F115 limit) on +18V, 8 flashers with cold inrush on +20V (GBJ1510 + 10000uF), 2 x AE-23-800 + 4 x AE-26-1200 fired together on the ~70 V rail (51.4VAC, GBPC3510 + 2 x 2200uF), +5V buck 3 A from GBU8J + 10000uF, +12V power (9.8VAC, GBU8J, 10000uF) with 2.5 A of motors / optos
* UVLO stop levels 5.6 V (+5V buck) / 8.5 V (+12V buck) modelled (118k/29.4k and 130k/20k dividers at Vena 1.22 V)
.include ../models.lib
* ---- +18V lamp supply, 13.3VAC, GBJ1510, 2 x 10000uF, all lamps lit + the +12V digital buck (0.75 A)
V13 l1 l2 SIN(0 18.8 60)
Rl1 l1 la 0.05
Rl2 l2 lb 0.05
Vbr18 la lab 0
DL1 lab v18 DSCH20100
DL2 lb v18 DSCH20100
DL3 0 lab DSCH20100
DL4 0 lb DSCH20100
C6 v18 0 10000u
C7 v18 0 10000u
Rl18 v18 0 2.5
Bv12 v12 0 V = 0.5*(1+tanh((v(v18)-8.5)*40)) * min(12.0, max(0.97*v(v18) - 0.5, 0))
R12 v12 0 16
Bin12 v18 0 I = (v(v12)*v(v12)/16) / (0.88*max(v(v18),1))
* ---- +5V raw: 9VAC -> BR2 (GBU8J) -> 10000uF -> buck (3 A)
V9 s1 s2 SIN(0 12.7 60)
Rs1 s1 sa 0.05
Rs2 s2 sb 0.05
Vbr5 sa sab 0
DS1 sab vraw DSCH20100
DS2 sb vraw DSCH20100
DS3 0 sab DSCH20100
DS4 0 sb DSCH20100
C5 vraw 0 10000u
Bv5 v5 0 V = 0.5*(1+tanh((v(vraw)-5.6)*40)) * min(5.10, max(0.97*v(vraw) - 0.5, 0))
R5 v5 0 1.667
Bin5 vraw 0 I = (v(v5)*v(v5)/1.667) / (0.88*max(v(vraw),1))
* ---- +20V flasher supply: 8 flashers on from t=40 ms (cold inrush)
V16 f1 f2 SIN(0 22.6 60)
Rf1 f1 fa 0.05
Rf2 f2 fb 0.05
Vbr20 fa fab 0
DF1 fab v20 DSCH20100
DF2 fb v20 DSCH20100
DF3 0 fab DSCH20100
DF4 0 fb DSCH20100
C11 v20 0 10000u
Vfl v20 v20f 0
Bflash v20f 0 I = (time > 40m) ? 8 * v(v20f) / (3 + 15*(1-exp(-(time-40m)/8m))) : 0
Rled20 v20 0 5k
* ---- +12V power (unregulated): the '9.8VAC' winding measured 12.47 VAC unloaded on an STTNG (17.6 V peak), 0.25 ohm per leg; GBU8J, 10000uF, 2.5 A (two gun motors + optos + DMD + coin door)
V98 u1 u2 SIN(0 17.63 60)
Ru1 u1 ua 0.25
Ru2 u2 ub 0.25
Vbr12 ua uab 0
DU1 uab v12u DSCH20100
DU2 ub v12u DSCH20100
DU3 0 uab DSCH20100
DU4 0 ub DSCH20100
C30 v12u 0 10000u
Rmot v12u 0 4.8
* ---- "+50V": 51.4VAC (72.7 V peak), 0.6 ohm per leg, 2 x 2200uF/100V; 2 x AE-23-800 (4.2 ohm) + 4 x AE-26-1200 (10.8 ohm) for 40 ms at 120 ms
V51 h1 h2 SIN(0 72.7 60)
Rh1 h1 ha 0.6
Rh2 h2 hb 0.6
Vbr ha hab 0
DH1 hab v50 DGBPC35
DH2 hb v50 DGBPC35
DH3 0 hab DGBPC35
DH4 0 hb DGBPC35
C8 v50 0 2200u
C32 v50 0 2200u
R260 v50 0 7.5k
Vctl ctl 0 PULSE(0 5 120m 1u 1u 40m 400m)
.model SWS SW(Ron=0.02 Roff=1e9 Vt=2.5 Vh=0.1)
Ssol v50 coils ctl 0 SWS
Vsol v50 v50s 0
* two AE-23-800: 2.1 ohm / 6 mH lumped; four AE-26-1200: 2.7 ohm / 6.25 mH lumped
Lhp coils hn 6m
Rhp hn 0 2.1
Llp coils ln 6.25m
Rlp ln 0 2.7
Dfb1 0 coils D1N4004
Dfb2 coils v50 D1N4004
.tran 20u 210m uic
.control
run
let ihp = i(Lhp)
let ilp = i(Llp)
let itot50 = ihp + ilp
let ibr50 = abs(i(Vbr))
let ibr18 = abs(i(Vbr18))
let ibr20 = abs(i(Vbr20))
let ibr5 = abs(i(Vbr5))
let ibr12 = abs(i(Vbr12))
let i18 = v(v18)/2.5
let iflash = i(Vfl)
meas tran v18_avg AVG v(v18) from=80m to=120m
meas tran v18_min MIN v(v18) from=80m to=120m
meas tran i18_avg AVG i18 from=80m to=120m
meas tran ibr18_peak MAX ibr18 from=80m to=120m
meas tran ibr20_peak MAX ibr20 from=40m to=140m
meas tran ibr5_peak MAX ibr5 from=80m to=140m
meas tran ibr12_peak MAX ibr12 from=80m to=140m
meas tran vin5_min MIN v(vraw) from=80m to=140m
meas tran v5_min MIN v(v5) from=80m to=140m
meas tran v20_min MIN v(v20) from=40m to=140m
meas tran v20_avg AVG v(v20) from=80m to=140m
meas tran iflash_peak MAX iflash from=40m to=60m
meas tran iflash_hot AVG iflash from=100m to=140m
meas tran v12_min MIN v(v12) from=40m to=140m
meas tran v12u_min MIN v(v12u) from=80m to=140m
meas tran v12u_avg AVG v(v12u) from=80m to=140m
meas tran v50_idle AVG v(v50) from=100m to=120m
meas tran v50_avg_pulse AVG v(v50) from=130m to=159m
meas tran v50_min_pulse MIN v(v50) from=130m to=159m
meas tran ihp_max MAX ihp from=120m to=160m
meas tran ilp_max MAX ilp from=120m to=160m
meas tran itot50_max MAX itot50 from=120m to=160m
meas tran ibr50_peak MAX ibr50 from=120m to=160m
wrdata /home/lolz0r/tng/wpc_power_driver_cost/output/spice/psu_maxload.csv v(v18) v(vraw) v(v5) v(v20) v(v12) v(v12u) v(v50) ihp ilp iflash ibr50 ibr18 ibr20 ibr5
.endc
.end
